US07579488B2
Step A: 4-[1-Ethyl-1-(5-hydroxymethyl-benzofuran-2-yl)-propyl]-2-methyl-phenol
A solution of 2-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzofuran-5-carboxylic acid methyl ester (710 mg, 2.02 mmol) in THF (40 mL) at 0° C. are added with LAH (153 mg, 4.03 mmol) and the mixture are stirred for 30 minutes. The reaction is quenched with water (0.5 mL), then NaOH (5N, 3.0 mL) and stirred for 10 minutes. The organic layer is concentrated and loaded on column and purified with EtOAc/Hexanes (50%) to obtain the title compound (653 mg, 100%).

reactant | 2-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzofuran-5-carboxylic acid methyl ester | 2.02 mmol, 710 mg | COC(=O)C=1C=CC2=C(C=C(O2)C(CC)(C2=CC(=C(C=C2)O)C)CC)C1 | C22H24O4
reactant | LAH | 4.03 mmol, 153 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-[1-Ethyl-1-(5-hydroxymethyl-benzofuran-2-yl)-propyl]-2-methyl-phenol | 653 mg, 100% | C(C)C(CC)(C=1OC2=C(C1)C=C(C=C2)CO)C2=CC(=C(C=C2)O)C | C21H24O3
